US08791267B2
Synthesis of 5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-pyrrolidin-1-yl-pyridine (P-582).
In an 8 mL vial equipped with a stir bar was placed 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine (P-456,100 mg, 0.289 mmol), pyrrolidine (60.3 uL, 0.723 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (204 uL, 1.45 mmol). The mixture was heated to 160° C. for 30 minutes and then cooled to room temperature. The reaction mixture was diluted with dichloromethane (25 mL) and washed with 0.5M HCl (3×10 mL). The combined aqueous portions were extracted with dichloromethane (15 mL), the organic portions were combined, washed with brine (15 mL), dried (MgSO4) and concentrated. The crude material was purified by silica gel column chromatography utilizing 10% acetone/dichloromethane as the eluent to produce 79 mg of P-582 as a pale orange semisolid in 69% yield. 1H NMR (400 MHz, DMSO-d6) δ 1.89-1.93 (m, 4H), 3.31-3.34 (m, 4H), 3.71 (s, 3H), 3.77 (s, 2H), 6.37 (d, J=9 Hz, 1H), 6.91 (d, J=9 Hz, 1H), 7.23-7.28 (m, 2H), 7.32 (dd, J=9, 2 Hz, 1H), 7.36 (s, 1H), 7.41-7.47 (m, 2H), 7.95 (d, J=2 Hz, 1H) ppm. MS (APCI+): 397.1 (M+1) LC-MS: 98%

reactant | 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine | 0.289 mmol, 456,100 mg | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)F)F | C19H14ClF2NO
reactant | pyrrolidine | 0.723 mmol, 60.3 uL | N1CCCC1 | C4H9N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.45 mmol, 204 uL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-pyrrolidin-1-yl-pyridine | 69% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)N1CCCC1)F | C23H22ClFN2O
